US07098226B2
2,2-Dimethyl-3-(4-pyridyl)propylamine (Intermediate No. 16-1)
Anhydrous diethyl ether (10 ml) was dropwise to lithium aluminum hydride (345 mg, 9.10 mmol) under a nitrogen atmosphere and ice-cold water-cooling. Then, a solution of 2,2-dimethyl-3-(4-pyridyl)-3-(p-tolylsulfonyloxy)propionitrile (600 mg, 1.82 mmol) in tetrahydrofuran (10 ml) was added dropwise to the mixture. The whole was stirred at room temperature overnight, and water (324 μl), a 15% aqueous sodium hydroxide solution (324 μl) and water (972 μl) were added successively to the reaction mixture while stirring it vigorously under ice-cold water-cooling. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and the concentrate was purified by silica gel column chromatography to give the titled compound (83.0 mg, 0.505 mmol, 28%) as a pale yellow oily matter.

reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
reactant | lithium aluminum hydride | 9.10 mmol, 345 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,2-dimethyl-3-(4-pyridyl)-3-(p-tolylsulfonyloxy)propionitrile | 1.82 mmol, 600 mg | CC(C#N)(C(OS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=NC=C1)C | C17H18N2O3S
reactant | sodium hydroxide | 324 μl | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 972 μl | O | H2O
solvent | water | 324 μl | O | H2O
product | 2,2-Dimethyl-3-(4-pyridyl)propylamine | 0.505 mmol, 83.0 mg, 28% | CC(CN)(CC1=CC=NC=C1)C | C10H16N2
